US05025025
A solution of 1.75 g of methyl 7-hydroxy-5-[2-(3pyridyl)ethenyl]-hept-2-enoate in 50 mL ethanol is hydrogenated with 0.35 g 10% palladium on charcoal at 3 atmospheres pressure of hydrogen and room temperature for 21 hours. The catalyst is filtered off and washed with ethanol (4×10 mL). The filtrate is evaporated to give a yellow oil which is chromatographed to yield methyl 7-hydroxy-5-[2-(3-pyridyl)ethyl]-heptanoate.

reactant | methyl 7-hydroxy-5-[2-(3pyridyl)ethenyl]-hept-2-enoate | 1.75 g | OCCC(CC=CC(=O)OC)C=CC=1C=NC=CC1 | C15H19NO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.35 g | [Pd] | Pd
product | methyl 7-hydroxy-5-[2-(3-pyridyl)ethyl]-heptanoate | OCCC(CCCC(=O)OC)CCC=1C=NC=CC1 | C15H23NO3
